US08802664B2
A mixture of 2-[[3-(5-chloropentyloxy)phenyl](1-methyl-piperidin-4-yloxy)-methyl]benzothiazole (200 mg) and sodium azide (85 mg) in dimethylsulfoxyde (3 mL) is heated overnight at 70° C., then cooled back to room temperature. Water is added and the product is extracted with ethyl acetate. Pooled extracts are washed with water, then brine, dried over magnesium sulfate and concentrated under reduced pressure to give 2-[[3-(5-azidopentyloxy)phenyl](1-methyl-piperidin-4-yloxy)methyl]benzothiazole used without further purification.

reactant | 2-[[3-(5-chloropentyloxy)phenyl](1-methyl-piperidin-4-yloxy)-methyl]benzothiazole | 200 mg | ClCCCCCOC=1C=C(C=CC1)C(C=1SC2=C(N1)C=CC=C2)OC2CCN(CC2)C | C25H31ClN2O2S
reactant | sodium azide | 85 mg | [N-]=[N+]=[N-].[Na+]
reactant | Water | O | H2O
solvent | dimethylsulfoxyde | 3 mL | CS(=O)C | C2H6OS
product | 2-[[3-(5-azidopentyloxy)phenyl](1-methyl-piperidin-4-yloxy)methyl]benzothiazole | N(=[N+]=[N-])CCCCCOC=1C=C(C=CC1)C(C=1SC2=C(N1)C=CC=C2)OC2CCN(CC2)C | C25H31N5O2S
